.include NAND2IN.sub
.include NOT.sub

.subckt OR2IN node_out node_a node_b vdd gnd
    X1 node_x node_a vdd gnd NOT
    X2 node_y node_b vdd gnd NOT
    X3 node_out node_x node_y vdd gnd NAND2IN
.ends OR2IN