.include NOR2IN.sub
.include NOT.sub

.subckt OR2IN node_out node_a node_b vdd gnd
    X1 node_c node_a node_b vdd gnd NOR2IN
    X2 node_out node_c vdd gnd NOT
.ends OR2IN